US06897231B2
B. 1-(5-(1H-1,2,4-Triazol-5-yl)(1H-indazol-3-yl))-3-(2-cyclohexylethoxy)benzene
Triphenylphosphine (0.951 g, 3.63 mmol), tetrahydrofuran (2.90 mL), 1-(cyclohexyl)ethanol (0.506 mL, 3.63 mmol) and diethylazodicarboxylate (0.573 mL, 3.63 mmol) were added to 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenol (0.547 g, 0.906 mmol). The mixture was stirred at room temperature for 23 h and poured into aqueous 6 N hydrochloric acid (25 mL). After stirring at ambient temperature for 4 h, the mixture was extracted with ether (3×). The aqueous fraction was added to aqueous 6 N sodium hydroxide (25 mL) and the pH adjusted to 11. The solution was extracted with ethyl acetate (3×) and the organic fractions were combined and dried over anhydrous sodium sulfate, filtered and evaporated. The residue was purified by preparative HPLC (30-80% acetonitrile/water) and gave an oil. A small amount of this oil was purified by flash chromatography (50-100% ethyl acetate/hexanes). The desired fractions were washed with aqueous sodium bicarbonate and extracted with ethyl acetate which gave the title compound (18.4 mg, 52% yield) as a white foam. 1H NMR (CDCl3) δ 8.71 (s, 1H), 8.20 (br s, 1H), 8.08 (br s, 1H), 7.65 (d, 1H), 7.59 (dt, 1H), 7.52 (m, 1H), 7.44 (t, 1H), 7.42 (s, 1H), 4.14 (t, 2H), 3.36 (m, 1H), 1.74 (m, 6H), 1.55 (m, 1H), 1.26 (m, 3H), 1.01 (m, 2H). ES-MS (m/z) 388 [M+1]+.

reactant | Triphenylphosphine | 3.63 mmol, 0.951 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-(cyclohexyl)ethanol | 3.63 mmol, 0.506 mL | C1(CCCCC1)C(C)O | C8H16O
reactant | diethylazodicarboxylate | 3.63 mmol, 0.573 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenol | 0.906 mmol, 0.547 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)O | C39H33N5O2
reactant | hydrochloric acid | 6 N, 25 mL | Cl | ClH
solvent | tetrahydrofuran | 2.90 mL | O1CCCC1 | C4H8O
product | 1-(5-(1H-1,2,4-Triazol-5-yl)(1H-indazol-3-yl))-3-(2-cyclohexylethoxy)benzene | 18.4 mg, 52% yield | N1N=CN=C1C=1C=C2C(=NNC2=CC1)C1=CC(=CC=C1)OCCC1CCCCC1 | C23H25N5O
